US06559279B1
4-[(4,4′-Dimethoxytrityl)oxy]Butyric Acid, Triethylammonium Salt
A solution of 4,4′-dimethoxytrityl chloride (695 mg, 2.05 mmol) and 4-hydroxybutyric acid (208 mg, 2.0 mmol) in anhydrous Pyridine (20 mL) was stirred overnight and concentrated to an oil in vacuo. The residue was dissolved in a mixture of MeOH and CH2Cl2 (95:5, v/v; 200 mL) and washed with 2M aqueous triethylammonium acetate (5×20 mL). The organic solution was evaporated, re-dissolved in CH2Cl2, dried over Na2SO4, and evaporated to give the crude title compound in a quantitative yield (1016 mg).

reactant | 4,4′-dimethoxytrityl chloride | 2.05 mmol, 695 mg | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)Cl)C=C1 | C21H19ClO2
reactant | 4-hydroxybutyric acid | 2.0 mmol, 208 mg | OCCCC(=O)O | C4H8O3
reactant | Pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 4-[(4,4′-Dimethoxytrityl)oxy]Butyric Acid, Triethylammonium Salt | quantitative yield | C(C)[NH+](CC)CC.COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OCCCC(=O)[O-])C=C1 | InChI=1S/C25H26O5.C6H15N/c1-28-22-14-10-20(11-15-22)25(19-7-4-3-5-8-19,30-18-6-9-24(26)27)21-12-16-23(29-2)17-13-21;1-4-7(5-2)6-3/h3-5,7-8,10-17H,6,9,18H2,1-2H3,(H,26,27);4-6H2,1-3H3
